US06797725B2
To a reaction mixture of 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carbonyl chloride (75 mg, 0.25 mmol), 5-fluorouracil (75 mg, 0.58 mmol), and 0.5 mL of pyridine in 2.0 mL of THF was stirred at room temperature for 1 h and filtered. The solid was then washed with THF, acetone, methanol, and ether to give 34 mg (36%) of 1-{3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carbonyl}-5-fluoro-1H-pyrimidine-2,4-dione as a light yellow solid. 1HNMR (400 MHz, DMSO-d6) δ 12.22 (d, J=4.69 Hz, 1H, CONHCO), 12.19 (s, br, 1H, NH-1′), 8.33 (d, J=6.64 Hz, 1H, H-6″), 7.92-7.94 (m, 1H, H-4), 7.74-7.76 (m, 1H, H-7), 7.71 (s, 1H, H-vinyl), 7.26-7.29 (m, 2H, H-5, 6), 6.16 (s, br, 1H, H-4′), 2.47 (s, 3H, CH3), and 2.35 (s, 3H, CH3).

reactant | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carbonyl chloride | 0.25 mmol, 75 mg | CC1=C(NC(=C1)C)\C=C\1/C(N(C2=CC=CC=C12)C(=O)Cl)=O | C16H13ClN2O2
reactant | 5-fluorouracil | 0.58 mmol, 75 mg | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 1-{3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carbonyl}-5-fluoro-1H-pyrimidine-2,4-dione | 34 mg, 36% | CC1=C(NC(=C1)C)\C=C\1/C(N(C2=CC=CC=C12)C(=O)N1C(NC(C(=C1)F)=O)=O)=O | C20H15FN4O4
